US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-cyclohexylcarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (2.00 g) was suspended in 1,2-dichloroethane (20 ml), cyclohexylcarbonyl chloride (1.21 g) and pyridine (652 mg) were added, and the mixture was refluxed for 1 hour and 30 minutes. Water (100 ml) was added to the reaction mixture, extracted with methylene chloride. The organic layer was washed with water, dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, and n-hexane was added to the residue for trituration, collected by filtration, to thereby obtain 2.04 g of the titled compound (Yield: 74.2%).

reactant | 2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 2.00 g | O=C1C(CNC2=C(N1)C=C(C=C2)C)NC(=O)OC(C)(C)C | C15H21N3O3
reactant | cyclohexylcarbonyl chloride | 1.21 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | pyridine | 652 mg | N1=CC=CC=C1 | C5H5N
reactant | Water | 100 ml | O | H2O
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | 2-oxo-3-tert-butoxycarbonylamino-5-cyclohexylcarbonyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 2.04 g, Yield: 74.2% | O=C1C(CN(C2=C(N1)C=C(C=C2)C)C(=O)C2CCCCC2)NC(=O)OC(C)(C)C | C22H31N3O4
